US07923450B2
b) [4-(3,5-Dichloro-phenyl)-4,5,6,7-tetrahydro-benzothiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
A suspension of [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea (58 mg, 0.22 mmol) and of crude 2-bromo-6-(3,5-dichloro-phenyl)-cyclohexanone (75 mg, 0.23 mmol) in ethanol (2 mL) was heated to reflux under an atmosphere of nitrogen for 2 days. After cooling to room temperature the solvent was evaporated under reduced pressure and the residue was purified by reversed preparative HPLC using acetonitril/water (0.1% formic acid) to yield the title compound (30 mg, 28%) as a yellow solid. MS ISP (m/e): 485.3/487.3 (100/72) [(M+H)+]. 1H NMR (CDCl3, 300 MHz): δ (ppm)=7.64 (s, 1H), 7.35 (s, 1H), 7.20 (s, 1H), 7.11 (d, 1H), 7.04 (s, 2H), 6.84 (s, 1H), 6.69 (d, 1H), 3.98 (m, 1H), 3.63 (s, 3H), 2.75 (m, 2H), 2.30 (s, 3H), 2.22 (m, 1H), 1.83 (m, 3H).

reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.22 mmol, 58 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
reactant | 2-bromo-6-(3,5-dichloro-phenyl)-cyclohexanone | 0.23 mmol, 75 mg | BrC1C(C(CCC1)C1=CC(=CC(=C1)Cl)Cl)=O | C12H11BrCl2O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | [4-(3,5-Dichloro-phenyl)-4,5,6,7-tetrahydro-benzothiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | 30 mg, 28% | ClC=1C=C(C=C(C1)Cl)C1CCCC2=C1N=C(S2)NC2=CC(=C(C=C2)N2C=NC(=C2)C)OC | C24H22Cl2N4OS
